US04740524
To the mixture of ethyl 3-bromo-2-(hydorxyimino)propanoate (3 g, 14.3 mmole) and 4-chlorobenzoyl chloride (2.75 g, 15.71 mmole) in dry methylene chloride (100 ml) at 0° to 5° C. with stirring, was slowly added dry pyridine (1.2 g, 15.18 mmole). After addition, the reaction mixture was stirred at room temperature for one hour. The reaction mixture was diluted with 50 ml of methylene chloride and washed with water and brine. The organic layer was dried with magnesium sulfate and the solvent evaporated to afford 5.0 g (99% yield) of ethyl 3-bromo-2-(4-chlorobenzoyloximino)propanoate as a white solid, m.p. 82°-84.5° C.

reactant | ethyl 3-bromo-2-(hydorxyimino)propanoate | 14.3 mmole, 3 g | BrCC(C(=O)OCC)=NO | C5H8BrNO3
reactant | 4-chlorobenzoyl chloride | 15.71 mmole, 2.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | pyridine | 15.18 mmole, 1.2 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-bromo-2-(4-chlorobenzoyloximino)propanoate | 5.0 g, 99% yield | BrCC(C(=O)OCC)=NOC(C1=CC=C(C=C1)Cl)=O | C12H11BrClNO4
